US06034087
Preparation of 1-O-benzyl-3-O-t-butyl-dimethylsilylglycerol (VT)
To a solution of 1-O-monobenzyl glycerol (1.58 g) in methylene chloride (20 ml), t-butyldimethylsilyl chloride (1.44 g) and then triethylamine (1.33 ml) and N,N-dimethylaminopyridine (0.04 g) were added, and the mixture was stirred overnight at room temperature. Methylene chloride (20 ml) was further added to the reaction liquid, and the mixture was washed with water (20 ml×3) and saturated ammonium chloride (20 ml×3), dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain pale yellow oil. The product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=7/1) to obtain the desired product (1.93 g) as pale yellow liquid.

reactant | 1-O-monobenzyl glycerol | 1.58 g | C(C1=CC=CC=C1)OCC(O)CO | C10H14O3
reactant | t-butyldimethylsilyl chloride | 1.44 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 1.33 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-O-benzyl-3-O-t-butyl-dimethylsilylglycerol | 1.93 g | C(C1=CC=CC=C1)OCC(O)CO[Si](C)(C)C(C)(C)C | C16H28O3Si
